data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2181,2419,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([NH+:18]=[CH:19][C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[CH:19]([C:20]([CH3:21])=[O:22])[NH:18][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,19.87404592249285,-22.32139074466361
3196,3608,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][N-:12][C:13](=[O:14])[O:15][CH3:16]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:10]=[N:11][N:12]1[C:13](=[O:14])[O:15][CH3:16],water,298.15,17.88043882514124,-33.92386786295276
3869,4428,[CH3:10][C:11](=[O:12])[c-:13]1[c:14](=[O:15])[o:16][c:17]([CH3:18])[n+:19]1[CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:13]2([C:11]([CH3:10])=[O:12])[C:14](=[O:15])[O:16][C:17]1([CH3:18])[N:19]2[CH3:20],water,298.15,38.57643566805636,9.834325235415784
224,244,[CH2-:7][N+:8]([CH3:9])=[C:10]([C:11]#[N:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1.[CH3:1][C:2](=[O:3])[C:4]#[C:5][Cl:6]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH2:7][N:8]([CH3:9])[C:10]1([C:11]#[N:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,8.172043778806836,-55.82856227123398
2826,3141,[CH3:23][O:24][C:25](=[O:26])[C-:27]([N+:28]#[C:29][c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[c:36]1[cH:37][cH:38][cH:39][cH:40][cH:41]1.[N:1]#[C:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]#[C:9][C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1>>[N:1]#[C:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]2=[C:9]([C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:27]([C:25]([O:24][CH3:23])=[O:26])([c:36]1[cH:37][cH:38][cH:39][cH:40][cH:41]1)[N:28]=[C:29]2[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,19.86799400147804,-36.10378719437633
2053,2278,[CH3:17][O:18][C:19](=[O:20])[c:21]1[o:22][c:23](=[O:24])[c-:25]([C:26](=[O:27])[O:28][CH3:29])[o+:30]1.[CH3:1][NH:2][C:3](=[O:4])/[C:5]([C:6]([CH3:7])=[O:8])=[C:9](/[C:10]([CH3:11])=[O:12])[C:13](=[O:14])[NH:15][CH3:16]>>[CH3:1][NH:2][C:3](=[O:4])[C@@:5]1([C:6]([CH3:7])=[O:8])[C@@:9]([C:10]([CH3:11])=[O:12])([C:13](=[O:14])[NH:15][CH3:16])[C:25]2([C:26](=[O:27])[O:28][CH3:29])[C:23](=[O:24])[O:22][C:21]1([C:19]([O:18][CH3:17])=[O:20])[O:30]2,water,298.15,25.27180798374638,-6.229610366922997
770,832,[CH3:13][NH:14][C:15](=[O:16])[CH:17]=[N+:18]([CH3:19])[C-:20]([CH3:21])[CH3:22].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH:17]([C:15]([NH:14][CH3:13])=[O:16])[N:18]([CH3:19])[C:20]2([CH3:21])[CH3:22],water,298.15,21.960128246113943,-19.698134453790857
1061,1156,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[O+:17][CH-:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]#[N:16])[O:17][CH:18]3[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,17.0155813716726,-62.00167207560514
2606,2888,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH3:27][NH:28][C:29](=[O:30])[CH-:31][N+:32]#[C:33][C:34](=[O:35])[O:36][CH3:37]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]2=[C:9]([C:10]([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[CH2:23][CH2:24][CH2:25][CH2:26]1)[CH:31]([C:29]([NH:28][CH3:27])=[O:30])[N:32]=[C:33]2[C:34](=[O:35])[O:36][CH3:37],water,298.15,14.124135359440036,-70.56053137328544
2248,2493,[CH3:18][O:19][C:20](=[O:21])[C-:22]([CH3:23])[O+:24]=[C:25]([C:26]#[N:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH2:14][CH2:15][CH:16]1[CH2:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH2:14][CH2:15][CH:16]1[CH2:17]3)[C:25]([C:26]#[N:27])([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[O:24][C:22]2([C:20]([O:19][CH3:18])=[O:21])[CH3:23],water,298.15,15.411028713831897,-26.392354309282464
1566,1732,[CH3:13][O:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([C:15]([O:14][CH3:13])=[O:16])=[N:18][C:19]3([C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,11.733314012378152,-53.31057731084694
